US20010027196A1
6-Furan-2-yl-N4-[2-(4-methoxy-phenyl)-ethyl]-5-nitro-pyrimidine-2,4-diamine
From trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester and 2-(4-methoxyphenyl)ethylamine in DME. ES-MS m/e (%): 356 (M+H+, 100).

reactant | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | 2-(4-methoxyphenyl)ethylamine | COC1=CC=C(C=C1)CCN | C9H13NO
solvent | DME | COCCOC | C4H10O2
product | 6-Furan-2-yl-N4-[2-(4-methoxy-phenyl)-ethyl]-5-nitro-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C17H17N5O4
